US07037925B2
c) 6-[3-(Dimethylamino)propoxy]-4-(2-ethylanilino)-7-methoxy-3-quinolinecarboxamide
Polymer-bound Triphenylphosphine (0.15 g, 0.44 mmol) and 3-dimethylamino-1-propanol (26 μl, 0.22 mmol) was suspended and dissloved in CH2Cl2 and THF at −15° C. and stirred for 30 min. DEAD (70 μl, 0.44 mmol) was added dropwise at −15° C. 4-(2-Ethylanilino)-6-hydroxy-7-methoxy-3-quinolinecarboxamide (50 mg, 0.15 mmol) was suspended in THF and then added to the reaction. The reaction was stirred over night, allowing the temperature rise to ˜10° C. The polymer was filtered off and the filtrate concentrated in vacuo. The product was purified using preparative HPLC according 15 mg (24%) of white crystals.

reactant | Triphenylphosphine | 0.44 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-dimethylamino-1-propanol | 0.22 mmol, 26 μl | CN(CCCO)C | C5H13NO
reactant | DEAD | 0.44 mmol, 70 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-(2-Ethylanilino)-6-hydroxy-7-methoxy-3-quinolinecarboxamide | 0.15 mmol, 50 mg | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)O)OC)C(=O)N)C=CC=C1 | C19H19N3O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 6-[3-(Dimethylamino)propoxy]-4-(2-ethylanilino)-7-methoxy-3-quinolinecarboxamide | CN(CCCOC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C(C=CC=C1)CC)C | C24H30N4O3
